US04548940
2-Bromo-5-methylpyridine (17.2 g), 1,3-diaminopropane (37 g) and pyridine (10 ml) were heated together under reflux for 6 hr. The mixture was stripped to remove excess diaminopropane and the residue taken up in water. The pH was adjusted to 7.5 with conc. hydrochloric acid and extracted with chloroform. The aqueous solution was basified with conc. sodium hydroxide to pH 14 and extracted again with chloroform. The extracts were dried (K2CO3) and stripped to give 2-(3-aminopropylamino)-5-methylpyridine as an oil (9.95 g; 60%) which was used without further purification.

reactant | 2-Bromo-5-methylpyridine | 17.2 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 1,3-diaminopropane | 37 g | NCCCN | C3H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-aminopropylamino)-5-methylpyridine | NCCCNC1=NC=C(C=C1)C | C9H15N3
